* C:\Users\Marcelo\Documents\GitHub\InformesTC\TP3\EJ1\Simulacion\GIC_1.asc
R7 N001 V2 {mc(72k,tolR)}
C6 N001 V2 {mc(10n,tolC)}
R6 N001 0 {mc(19k,tolR)}
R1 N003 N001 {mc(7k5,tolR)}
C2 N002 N003 {mc(10n,tolC)}
R3 Vo N002 {mc(7k5,tolR)}
R4 Vo N004 {mc(3.116k,tolR)}
R5 0 N004 {mc(5.303k,tolR)}
V1 V1 0 AC 1
R8 N004 V2 {mc(7k5,tolR)}
XU3 N001 N002 VCC -VCC Vo LM833
XU4 N004 N002 VCC -VCC N003 LM833
V2 VCC 0 12
V3 0 -VCC 12
R2 V2 V1 10k
.ac dec 100 10 1Meg
.inc LM833.sub
.step param run 1 10 1
.param tolR=0
.param tolC=0
.backanno
.end
