* C:\Users\Marcelo\Documents\GitHub\InformesTC\TP3\EJ1\Simulacion\GIC_1.asc
R7 N002 V2 {mc(72k,tolR)}
C6 N002 V2 {mc(10n,tolC)}
R6 N002 0 {mc(19k,tolR)}
R1 N004 N002 {mc(7k5,tolR)}
C2 N003 N004 {mc(10n,tolC)}
R3 Vo N003 {mc(7k5,tolR)}
R4 Vo N005 {mc(3.116k,tolR)}
R5 0 N005 {mc(5.303k,tolR)}
V1 V1 0 AC 1
V2 VCC 0 12
V3 0 -VCC 12
R8 N005 V2 {mc(7k5,tolR)}
XU3 N002 N003 VCC -VCC Vo LM833
XU4 N005 N003 VCC -VCC N004 LM833
R2 N001 0 10Meg
C1 N001 0 10p
R9 V2 V1 10k
.ac dec 100 10 1Meg
.inc LM833.sub
.param tolR=0
.param tolC=0
.backanno
.end
